US07932246B2
2-(6-Morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid
Ethyl 2-(6-morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylate (16 mg, 0.05 mmol) was dissolved in THF (1 ml) and a solution of 6M NaOH in water (0.5 ml) was added. The reaction was stirred at r.t. for 18 h. More 6M NaOH (0.5 ml) was added and the reaction stirred for a further 24 h. The reaction mixture was evaporated to leave only the aqueous portion, which was acidified to pH˜1 using 10% aq. HCl, then evaporated to dryness and used in the next step without further purification. LCMS purity 100%, m/z 291 [M+H]+.

reactant | Ethyl 2-(6-morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylate | 0.05 mmol, 16 mg | N1(CCOCC1)C1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C16H22N4O3
reactant | NaOH | 6M | [OH-].[Na+]
reactant | NaOH | 6M, 0.5 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | 2-(6-Morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid | N1(CCOCC1)C1C2CN(CC12)C1=NC=C(C=N1)C(=O)O | C14H18N4O3
